US07329678B2
2-amino-5-bromonicotinaldehyde (0.1 g, 0.5 mmol), 3-cyanophenylboronic acid (0.146 g, 1.0 mmol), dichlorobis(triphenylphosphine)palladium(II) (0.017 g, 0.02 mmol), and K2CO3 (0.14 g, 1.0 mmol) were combined in 3 mL of 4:1 CH3CN:H2O and heated to 150° C. for 5 minutes in the SmithSynthesizer™ microwave instrument. Upon cooling, the reaction mixture was chromatographed on silica gel eluting with hexanes/ethyl acetate (0% EtOAc to 100% EtOAc over 10 minutes) to afford 3-(6-amino-5-formylpyridin-3-yl)benzonitrile (46 mg) as a solid.

reactant | 2-amino-5-bromonicotinaldehyde | 0.5 mmol, 0.1 g | NC1=C(C=O)C=C(C=N1)Br | C6H5BrN2O
reactant | 3-cyanophenylboronic acid | 1.0 mmol, 0.146 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | K2CO3 | 1.0 mmol, 0.14 g | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | O | H2O
solvent | CH3CN | 3 mL | CC#N | C2H3N
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.02 mmol, 0.017 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(6-amino-5-formylpyridin-3-yl)benzonitrile | 46 mg | NC1=C(C=C(C=N1)C=1C=C(C#N)C=CC1)C=O | C13H9N3O
